US04968676
4-[3-(3-Methylphenyl)-propyl]aniline
46 g (0.47 mole) of concentrated sulfuric acid and 8 g of palladium on 80% active carbon are added to a solution of 130 g (0.49 mole) of E-(3-methylstyryl) 4-nitrophenyl ketone in 1.3 l of glacial acetic acid, and the mixture is saturated with nitrogen. Thereafter, hydrogen gas is passed into the stirred mixture under atmospheric pressure. After about 30 l of hydrogen has been absorbed, the mixture is heated to 50°-70° C. and hydrogenated until the theoretical amount of hydrogen (about 66 l) has been consumed. The mixture is filtered under suction over kieselguhr, the filtrate is evaporated to dryness and the residue is stirred with 1 l of ice water, 200 ml of 50% strength sodium hydroxide solution and 800 ml of methyl tert-butyl ether. The aqueous phase is washed with 3 times 250 ml of methyl tert-butyl ether, and the combined organic phases are washed once with 250 ml of water and once with 250 ml of saturated NaCl solution, dried over Na2SO4 and evaporated down under reduced pressure to give 114 g of a brown oil of boiling point 158°-163° C./0.3 mm, which is about 95% pure (corresponding to 98% of theory) according to the gas chromatogram.

reactant | sulfuric acid | 0.47 mole, 46 g | S(O)(O)(=O)=O | H2O4S
reactant | E-(3-methylstyryl) 4-nitrophenyl ketone | 0.49 mole, 130 g | [N+](=O)([O-])C1=CC=C(C=C1)C(=O)\C=C\C1=CC(=CC=C1)C | C16H13NO3
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 1.3 l | C(C)(=O)O | C2H4O2
catalyst | palladium | 8 g | [Pd] | Pd
product | 4-[3-(3-Methylphenyl)-propyl]aniline | 114 g | CC=1C=C(C=CC1)CCCC1=CC=C(N)C=C1 | C16H19N
